US06140501
1.4 g (0.005 mol) of tert-butyl 4-(2-carbamoylmethoxyethyl)piperazine-1-carboxylate prepared in Example I.4.1. and 14 ml of a 3M solution of hydrochloric acid in ethyl acetate are introduced into a 50 ml three-necked round-bottomed flask fitted with a water-cooled condenser and a mechanical stirrer. The mixture is stirred at room temperature for 2 hours. The precipitate is filtered off and is washed with ethyl acetate. 1.3 g (100%) of 2-(1-piperazinyl)ethoxyacetamide dihydrochloride are obtained.

reactant | tert-butyl 4-(2-carbamoylmethoxyethyl)piperazine-1-carboxylate | 0.005 mol, 1.4 g | C(N)(=O)COCCN1CCN(CC1)C(=O)OC(C)(C)C | C13H25N3O4
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1-piperazinyl)ethoxyacetamide dihydrochloride | 1.3 g, 100% | Cl.Cl.N1(CCNCC1)CCOCC(=O)N | InChI=1S/C8H17N3O2.2ClH/c9-8(12)7-13-6-5-11-3-1-10-2-4-11;;/h10H,1-7H2,(H2,9,12);2*1H
